US04311699
A suspension of 11.41 g (71.7 mmol) of N-acetyl-D-valine and 150 ml of dichloromethane is stirred at room temperature and 7.9 ml (71.7 mmol) of N-methylmorpholine is added. The resulting solution is cooled to -10° C. and 9.3 ml (71.7 mmol) of isobutyl chloroformate is added. The reaction mixture is stirred at -15°±5° C. for 45 min and an ice cold solution of 11.09 g (48 mmol) of 2-(4-aminophenyl)-4-hydroxy-5-pyrimidine carboxylic acid, 7.4 ml (52.8 mmol) of triethylamine, and 200 ml of N,N-dimethylacetamide is added while keeping the temperature below -10° C. The mixture is stirred at 0°-5° C. for 2 hrs and overnight at room temperature. A small amount of solid is filtered and the filtrate is evaporated to dryness. Water is added to the residue and the resulting solid filtered, washed with water, ethyl acetate, and ether and dried to give 8.9 g of 2-[4-(N-acetyl-D-valylamino)phenyl]-4-hydroxy-5-pyrimidine carboxylic acid. A second crop, obtained from the aqueous filtrate, weighs 2.35 g. [α]D23 +4.50 (cl, pH 7).

reactant | N-acetyl-D-valine | 71.7 mmol, 11.41 g | C(C)(=O)N[C@H](C(C)C)C(=O)O | C7H13NO3
reactant | N-methylmorpholine | 71.7 mmol, 7.9 ml | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 71.7 mmol, 9.3 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 2-(4-aminophenyl)-4-hydroxy-5-pyrimidine carboxylic acid | 48 mmol, 11.09 g | NC1=CC=C(C=C1)C1=NC=C(C(=N1)O)C(=O)O | C11H9N3O3
reactant | triethylamine | 52.8 mmol, 7.4 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylacetamide | 200 ml | CN(C(C)=O)C | C4H9NO
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 2-[4-(N-acetyl-D-valylamino)phenyl]-4-hydroxy-5-pyrimidine carboxylic acid | 8.9 g | C(C)(=O)N[C@H](C(C)C)C(=O)NC1=CC=C(C=C1)C1=NC=C(C(=N1)O)C(=O)O | C18H20N4O5
